US07906528B2
To a solution of 1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butan-1-ol (20 mg, 0.044 mmol) in DCM (2 mL), N,N-diisopropylethylamine (15 μL, 0.08 mmol), acetic anhydride (6.6 μL, 0.06 mmol), and DMAP (1 mg) were added. The mixture is stirred at room temperature for 4 h. All volatiles are removed under reduced pressure and the residue is purified by chromatography to afford acetic acid 1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butyl ester as a colorless oil.

reactant | 1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butan-1-ol | 0.044 mmol, 20 mg | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2C(CC(C)C)O)C2=CC=C(C=C2)C(C)C | C31H38N2O
reactant | N,N-diisopropylethylamine | 0.08 mmol, 15 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic anhydride | 0.06 mmol, 6.6 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 1 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | acetic acid 1-[5-(2,6-diethyl-phenyl)-1-(4-isopropyl-phenyl)-1H-pyrrolo[2,3-c]pyridin-3-yl]-3-methyl-butyl ester | C(C)C1=C(C(=CC=C1)CC)C=1C=C2C(=CN1)N(C=C2C(CC(C)C)OC(C)=O)C2=CC=C(C=C2)C(C)C | C33H40N2O2
